US04423213
To a solution of benzhydryl 7-[4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyramido]-3-vinyl-3-cephem-4-carboxylate (26.0 g) in tetrahydrofuran (100 ml) was added a solution of thiourea (3.1 g) and sodium acetate (3.3 g) in water (100 ml), and the mixture was stirred at 35° C. for 3 hours. The reaction mixture was extracted with ethyl acetate, and the extract was washed with water, followed by drying over magnesium sulfate. Removal of the solvent gave benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (12.5 g).

reactant | benzhydryl 7-[4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyramido]-3-vinyl-3-cephem-4-carboxylate | 26.0 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OCC(Cl)(Cl)Cl)=O | C30H25BrCl3N3O8S
reactant | thiourea | 3.1 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 3.3 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 12.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OCC(Cl)(Cl)Cl | C31H26Cl3N5O7S2
